US08809371B2
Palladium hydroxide (0.29 g) was added to a solution of tetrahydrofuran (7.2 ml) and methanol (14.3 ml) containing tert-butyl cis-2-(6-benzylamino-3-fluoro-5-(2-phenylpropan-2-ylaminocarbonyl)pyridin-2-ylamino)cyclohexylcarbamate (1.43 g), followed by stirring at room temperature for 1 hour in a hydrogen atmosphere. Insoluble matter was removed by filtration, and filter cake was washed with ethyl acetate. The filtrate was mixed with the washing solution, and the solvent was distilled away under reduced pressure. Diisopropylether and hexane were added to the obtained residue, solid matter was collected by filtration, and a white solid of tert-butyl cis-2-(6-amino-3-fluoro-5-(2-phenylpropan-2-ylaminocarbonyl)pyridin-2-ylamino)cyclohexylcarbamate (870 mg) was thus obtained.

reactant | tetrahydrofuran | 7.2 ml | O1CCCC1 | C4H8O
reactant | tert-butyl cis-2-(6-benzylamino-3-fluoro-5-(2-phenylpropan-2-ylaminocarbonyl)pyridin-2-ylamino)cyclohexylcarbamate | 1.43 g | C(C1=CC=CC=C1)NC1=C(C=C(C(=N1)N[C@@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O)F)C(=O)NC(C)(C)C1=CC=CC=C1 | C33H42FN5O3
reactant | hydrogen | [H][H] | H2
catalyst | Palladium hydroxide | 0.29 g | [OH-].[Pd+2].[OH-]
solvent | methanol | 14.3 ml | CO | CH4O
product | tert-butyl cis-2-(6-amino-3-fluoro-5-(2-phenylpropan-2-ylaminocarbonyl)pyridin-2-ylamino)cyclohexylcarbamate | 870 mg | NC1=C(C=C(C(=N1)N[C@@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O)F)C(=O)NC(C)(C)C1=CC=CC=C1 | C26H36FN5O3
